US07459448B2
2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (I-53)
To a solution of 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-30) (0.60 g, 1.20 mmol) in dry DMF (8 mL) was added Ac2O (0.23 mL, 2.44 mmol), HCOOLi (0.19 g, 3.66 mmol), LiCl (0.155 g, 3.66 mmol), and Pd(OAc)2 (0.01 g, 0.06 mmol). Lastly, i-Pr2NEt (0.42 mL, 2.44 mmol) was added and the mixture heated for 16 h at 80° C. in a sealed tube. The reaction mixture was then diluted with CH2Cl2 (30 mL), and the organic layer was washed with H2O (3×30 mL), dried over MgSO4, filtered and concentrated in vacuo to give crude product as a yellow solid. The solid was treated with EtOAc and sonicated to provide a white solid which was collected by filtration to provide I-53 (0.33 g, 71%): HRMS Calcd. for C21H18N4O5: 407.1355, Found 407.1364.

reactant | 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | 1.20 mmol, 0.60 g | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)I)N1 | C20H17IN4O3
reactant | Ac2O | 2.44 mmol, 0.23 mL | CC(=O)OC(=O)C | C4H6O3
reactant | HCOOLi | 3.66 mmol, 0.19 g | C(=O)O[Li]
reactant | LiCl | 3.66 mmol, 0.155 g | [Li+].[Cl-]
reactant | i-Pr2NEt | 2.44 mmol, 0.42 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.06 mmol, 0.01 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)C(=O)O)N1 | C21H18N4O5
